US06030967
3-[10-(1,3-Benzodioxol-5-yl)-8,9-dihydro-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one-8-yl]carbonylpropionic acid
To an ethyl acetate (2 ml) solution of Benzyl 3-[10-(1,3-benzodioxol-5-yl)-8,9-dihydro-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one-8-yl]carbonyl-propionate (50 mg) was added 10% palladium carbon (10 mg) and stirred overnight under hydrogen atmosphere. The catalysts were filtered off and the filtrate was concentrated under reduced pressure, then recrystallized from ethyl acetate-hexane to give the entitled compound (28 mg) as colorless crystals.

reactant | Benzyl 3-[10-(1,3-benzodioxol-5-yl)-8,9-dihydro-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one-8-yl]carbonyl-propionate | 50 mg | O1COC2=C1C=CC(=C2)C=2C=1CN(C(C1C=C1C2C=2OCOC2C=C1)=O)C(=O)CCC(=O)OCC1=CC=CC=C1 | C31H23NO8
catalyst | palladium carbon | 10 mg | [C].[Pd]
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 3-[10-(1,3-Benzodioxol-5-yl)-8,9-dihydro-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one-8-yl]carbonylpropionic acid | 28 mg | O1COC2=C1C=CC(=C2)C=2C=1CN(C(C1C=C1C2C=2OCOC2C=C1)=O)C(=O)CCC(=O)O | C24H17NO8
